US07799806B2
Step 1: 2-Ethoxy-4′-fluoro-biphenyl-4-carboxylic acid ethyl ester
To a solution of 3-ethoxy-4-iodo-benzoic acid ethyl ester (0.76 g, 2.37 mmol, 1.0 equiv; [CAS RN 741699-04-7]) in anhydrous DMF (12 mL) under Ar was added 4-fluorophenyl boronic acid (0.40 g, 2.86 mmol, 1.20 equiv), K3PO4 (0.86 g, 4.04 mmol, 1.70 equiv) and tetrakis(triphenylphosphine) palladium(0) (0.082 g, 0.071 mmol, 0.03 equiv) and the reaction mixture heated to 80° C. After 16 h, the reaction mixture was poured on crashed ice/NH4Cl, extracted twice with ethyl acetate, the combined organic phases washed with water and a sat. solution of NaCl, dried over MgSO4 and concentrated by evaporation under reduced pressure. The crude material was purified with silica column chromatography eluting with hexane/ethyl acetate (95:5) to yield 0.51 g (75%) of the title compound as a colorless oil. MS (ISP): 289.3 [M+H]+.

reactant | 3-ethoxy-4-iodo-benzoic acid ethyl ester | 2.37 mmol, 0.76 g, 1.0 equiv | C(C)OC(C1=CC(=C(C=C1)I)OCC)=O | C11H13IO3
reactant | 4-fluorophenyl boronic acid | 2.86 mmol, 0.40 g, 1.20 equiv | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | K3PO4 | 4.04 mmol, 0.86 g, 1.70 equiv | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.071 mmol, 0.082 g, 0.03 equiv | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-Ethoxy-4′-fluoro-biphenyl-4-carboxylic acid ethyl ester | 0.51 g, 75% | C(C)OC(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)F)OCC | C17H17FO3
